US09290451B2
2-[(6-Cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carbonyl)-amino]-2-ethyl-butyric acid methyl ester
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (Example 113 d) and methyl 2-amino-2-ethylbutanoate hydrochloride (CAN 92398-54-4) as starting materials. MS (EI): m/e=389.0 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C(F)(F)F | C11H10F3NO3
reactant | methyl 2-amino-2-ethylbutanoate hydrochloride | Cl.NC(C(=O)OC)(CC)CC
product | 2-[(6-Cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carbonyl)-amino]-2-ethyl-butyric acid methyl ester | COC(C(CC)(CC)NC(=O)C1=NC(=C(C=C1)C(F)(F)F)OCC1CC1)=O | C18H23F3N2O4
